US05252560
4-(Acetylamino)-1,2-benzenedicarboxylic acid, diethyl ester
A solution of diethyl 4-aminophthalate (660 mg) in methylene chloride (40 mL) at 0° was treated with pyridine (0.25 mL) and acetyl chloride (0.22 mL). The reaction mixture was allowed to warm to 23° and stirred for 16 h. The reaction mixture was partitioned between saturated aqueous sodium bicarbonate and methylene chloride. The organic layer was washed with water, 2N hydrochloric acid and brine, dried (MgSO4) and evaporated. The residue was dissolved in ethyl acetate, which upon standing afforded the title compound as white crystals (350 mg). M.p. 118°-121°.

reactant | diethyl 4-aminophthalate | 660 mg | NC=1C=C(C(C(=O)OCC)=CC1)C(=O)OCC | C12H15NO4
reactant | pyridine | 0.25 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.22 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-(Acetylamino)-1,2-benzenedicarboxylic acid, diethyl ester | 350 mg | C(C)(=O)NC=1C=C(C(=CC1)C(=O)OCC)C(=O)OCC | C14H17NO5
